### PR TITLE
bigmax for ereals

### PR DESCRIPTION
**Pull request by affeldt-aist**
Co-authored-by: IshiguroYoshihiro
Co-authored-by: Takafumi Saikawa <tscompor@gmail.com>

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
~~- [ ] added corresponding documentation in the headers~~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/constructive_ereal.v [hunk 1]
```diff
@@ -2192,6 +2192,17 @@ Proof. by move=> x; have [//|] := leP -oo x; rewrite ltNge leNye. Qed.
 Lemma maxeNy : right_id (-oo : \bar R) maxe.
 Proof. by move=> x; rewrite maxC maxNye. Qed.
 
+Canonical maxe_monoid := Monoid.Law maxA maxNye maxeNy.
+
+Lemma lee_bigmax_ord (F : nat -> \bar R) (n m : nat) : (n <= m)%N ->
+  \big[maxe/-oo]_(j < n) F j <= \big[maxe/-oo]_(j < m) F j.
```
Comment (proux01) [inline theories/constructive_ereal.v:2198]: Can't we get something more generic like
```suggestion
Lemma lee_bigmax_seq (I : eqType) s s' P P' (F : I -> \bar R) :
  {subset [seq i <- s | P i] <= [seq i <- s' | P' i]} ->
  \big[maxe/-oo]_(i <- s | P i) F i <= \big[maxe/-oo]_(i <- s' | P' i) F i.
```
from which this would be derived? (it should also probably have a P (which would be predT in trivial cases))

We could also have lee_bigmax_nat while at it

And similar lemmas for mine

Comment (affeldt-aist) [reply theories/constructive_ereal.v]: I addressed the easy part of your comment but not the generalization to `seq`.

File: theories/constructive_ereal.v [hunk 2]
```diff
@@ -2192,6 +2192,18 @@ Proof. by move=> x; have [//|] := leP -oo x; rewrite ltNge leNye. Qed.
 Lemma maxeNy : right_id (-oo : \bar R) maxe.
 Proof. by move=> x; rewrite maxC maxNye. Qed.
 
+Canonical maxe_monoid := Monoid.Law maxA maxNye maxeNy.
+Canonical maxe_comoid := Monoid.ComLaw maxC.
+
+Lemma lee_bigmax_ord (F : nat -> \bar R) (n m : nat) (P : pred nat) : (n <= m)%N ->
+  \big[maxe/-oo]_(j < n | P j) F j <= \big[maxe/-oo]_(j < m | P j) F j.
```
Comment (CohenCyril) [inline theories/constructive_ereal.v:2199]: Isn't it a generic lemma for ordered types with a bottom element?

Comment (proux01) [reply theories/constructive_ereal.v:2199]: I think we don't even need the bottom element. I'm having a look.

Comment (proux01) [reply theories/constructive_ereal.v]: Sorry for the delay, this can indeed be generalized to ordered types. Done and put more general lemma in mathcomp_extra.v. Once this is merged, I should do a backporting PR on mathcomp.

**Review by CohenCyril — APPROVED** [review]
Ok that's great, could you also backport this to mathcomp?

**Comment by proux01** [comment]
> Ok that's great, could you also backport this to mathcomp?

Sure
I still have some doubts about the order of arguments in `le_bigmax_ord` and the genericity with respect to the condition P, let me see if I can improve that before merging here.

**Comment by proux01** [comment]
@CohenCyril I uniformized the order of arguments and put the widening of range and condition in orthogonal lemmas.

CI green, I think this can be merged (I'll then open a backporting PR on mathcomp).

File: classical/mathcomp_extra.v [hunk 3]
```diff
@@ -609,6 +609,50 @@ Proof. by rewrite (bigID_idem maxA maxC _ _ a) ?maxxx. Qed.
...
+
+Lemma le_bigmax_condW x0 (I : eqType) s (P P' : pred I) (F : I -> T) :
+    (forall i, i \in s -> P i -> P' i) ->
+  \big[max/x0]_(i <- s | P i) F i <= \big[max/x0]_(i <- s | P' i) F i.
+Proof.
+move=> lePP'; rewrite [in leRHS](bigmaxID _ _ P) [in leRHS]big_seq_cond.
+under [in leRHS]eq_bigl => i
+  do (rewrite andbCA andb_idl => [|/andP[]]; [|exact: lePP']).
+by rewrite -big_seq_cond le_maxr lexx.
+Qed.
```
Comment (CohenCyril) [inline classical/mathcomp_extra.v:641]: It would make sense to have versions of the other lemmas including the weakening of the predicate...
Of course it's juste a combination via transitivity (although one should do it with the smallest sequence / range / ordinal / set)

File: classical/mathcomp_extra.v [hunk 4]
```diff
@@ -609,6 +609,50 @@ Proof. by rewrite (bigID_idem maxA maxC _ _ a) ?maxxx. Qed.
...
+Proof.
+move=> len'n lemm'; apply: le_bigmax_seq => i.
+rewrite !mem_index_iota => /andP[leni leim] /=.
+by rewrite (leq_trans len'n) // (leq_trans leim).
+Qed.
+
+Lemma le_bigmax_ord x0 n m (P : pred nat) (F : nat -> T) : (n <= m)%N ->
+  \big[max/x0]_(i < n | P i) F i <= \big[max/x0]_(i < m | P i) F i.
+Proof. by move=> ?; rewrite -!big_mkord le_bigmax_nat. Qed.
+
```
Comment (CohenCyril) [inline classical/mathcomp_extra.v:655]: What about `le_bigmax_in` 
```coq
\big[max/x0]_(i in A | P i) F i <= \big[max/x0]_(i in A | P i) F i.
```
(which is a weakening of `le_bigmax_condW`)

File: classical/mathcomp_extra.v [hunk 5]
```diff
@@ -609,6 +609,50 @@ Proof. by rewrite (bigID_idem maxA maxC _ _ a) ?maxxx. Qed.
...
+Proof.
+move=> less'; rewrite -[in leRHS]big_filter big_seq_cond.
+apply: bigmax_le => [|i /andP[/less' is' Pi]].
+  by rewrite -(big_id_idem maxA) ?maxxx // le_maxr lexx orbT.
+rewrite -(big_undup_AC maxA maxC _ _ _ _ maxxx) (bigmaxID _ _ (xpred1 i)) /=.
+rewrite -big_filter filter_pred1_uniq ?undup_uniq ?mem_undup ?mem_filter ?Pi //.
+by rewrite big_cons 2!le_maxr lexx.
+Qed.
+
+Lemma le_bigmax_condW x0 (I : eqType) s (P P' : pred I) (F : I -> T) :
```
Comment (CohenCyril) [inline classical/mathcomp_extra.v:633]: Is the `W` necessary? (to avoid a conflict for example?), if not we could just remove it
```suggestion
Lemma le_bigmax_cond x0 (I : eqType) s (P P' : pred I) (F : I -> T) :
```

File: classical/mathcomp_extra.v (hunk 4 above)
Comment (proux01) [reply classical/mathcomp_extra.v:670]: I guess
```
\big[max/x0]_(i in A | P i) F i <= \big[max/x0]_(i in A | P' i) F i.
```
Done

**Review by CohenCyril — CHANGES_REQUESTED** [review]
So I'm pretty happy with the current state, except a few things that I'm going to make suggestions for very soon.

File: classical/mathcomp_extra.v (hunk 5 above)
Comment (CohenCyril) [reply classical/mathcomp_extra.v:633]: > Unfortunately, there is already a
> 
> ```
> Lemma le_bigmax_cond j P F : P j -> F j <= \big[max/x]_(i | P i) F i.
> ```
> 
> (not yet backported to mathcomp though, it would then be pretty easy to change)

given that `leq_bigmax_cond` is already in mathcomp, it's not a good idea to change it.

**Comment by CohenCyril** [comment]
> @CohenCyril ping?

Got sidetracked, posting soon

**Comment by proux01** [comment]
@CohenCyril not fond of the option business, sure it is convenient here but I think the best solution would be to add semigroups in the monoid hierarchy as done in the HB port of mathcomp. Adding semigroups will make all `_AC` lemmas disappear. Meanwhile, the use of `oAC` and `big_ACE` tend to reverse the dependency between the corresponding monoid and semigroup lemmas.

Otherwise, looks good to me, I particularly like the generalization to increasing operators.

**Comment by CohenCyril** [comment]
> @CohenCyril not fond of the option business, sure it is convenient here but I think the best solution would be to add semigroups in the monoid hierarchy as done in the HB port of mathcomp. Adding semigroups will make all `_AC` lemmas disappear. Meanwhile, the use of `oAC` and `big_ACE` tend to reverse the dependency between the corresponding monoid and semigroup lemmas.

I agree with you that the "option buisness" is not useful in a context where mathcomp law hierarchy is generalize to  semigroups. However you already extended mathcomp with the `_AC` lemmas so I did not feel the need to reprove them here and and I went for the shortcut of `oAC` to import the few required ones here in `mathcomp_extra`, and these specific proofs will disapear as soon as `mathcomp 1.16` is required for mathcomp analysis.

Meanwhile, the `oAC` buisness is not strictly necessary but it's a fun example of left adjoint to the forgetful functor from monoids to semigroups, how it can be used to derive theory from a more powerful one and could be very useful in a context where a monoid is really needed... Hence I advise to port it to mathcomp but not to port the proofs that I did to generalize results from monoid to semigroups, but to keep the ones you already did in mathcomp master...

**Comment by proux01** [comment]
Ok, let's go for that solution. If you are happy with the current state, I let you approve the PR and I'll merge it by the end of the week. I'll then be able to do the backporting to mathcomp.

**Review by CohenCyril — APPROVED** [review]
